US04885301
2-(2-Isobutoxyphenyl)-6-purinone
In a similar manner to Example 1 reaction of 4,5-diamino-2-(2-isobutoxyphenyl)pyrimidin-6-one sulphate (1.4 g) with formamide (5 ml) afforded the title compound, 0.24 g, m.p. 272°-273° C., (recrystallised from ethanol).

reactant | 4,5-diamino-2-(2-isobutoxyphenyl)pyrimidin-6-one sulphate | 1.4 g | S(=O)(=O)(O)O.NC=1N=C(NC(C1N)=O)C1=C(C=CC=C1)OCC(C)C
reactant | formamide | 5 ml | C(=O)N | CH3NO
product | 2-(2-Isobutoxyphenyl)-6-purinone | C(C(C)C)OC1=C(C=CC=C1)C1=NC(C2=NC=NC2=N1)=O | C15H14N4O2
